US05861428
Example 102 Step 1--Preparation of 2-(2-Iodophenyl)ethanol.
The title compound was synthesized by a sequence similar to that for Example 87 except that 2-(2-iodophenyl)ethyl bromide and commercially available diethyl phenethyl malonate were used in lieu of the 4-chlorobiphenyl and phenylpropyl malonate respectively. The final product was recrystallized from chloroform to give a fluffy, white solid (mp: melts/softens over a broad range starting at 50° C.; the bulk of the sample melts at 189°-190° C.).

reactant | 2-(2-iodophenyl)ethyl bromide | IC1=C(C=CC=C1)CCBr | C8H8BrI
reactant | 4-chlorobiphenyl | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
reactant | phenylpropyl malonate | C(CC(=O)[O-])(=O)OCCCC1=CC=CC=C1
product | 2-(2-Iodophenyl)ethanol | IC1=C(C=CC=C1)CCO | C8H9IO
